* c:\fossee\esim\library\subcircuitlibrary\dff_1\dff_1.cir

m1  /vin /din net-_m1-pad3_ /vin mosfet_p
m5  /vin net-_m1-pad3_ /vout /vin mosfet_p
m2  net-_m1-pad3_ /clk net-_m2-pad3_ gnd mosfet_n
m3  net-_m2-pad3_ /din gnd gnd mosfet_n
m4  /vout net-_m2-pad3_ gnd gnd mosfet_n
* u1  /din /clk /vin /vout port
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
